US05405851
A solution of ethyl 3-hydroxyphenylacetate (28 g, 0.15 mole) and 4-fluorobenzonitrile (25 g, 0.21 mole) in dimethylsulfoxide (150 ml) was stirred with 87% potassium hydroxide (10 g, 0.15 mole) at 75°-80° C. for 80 minutes under nitrogen. The resulting mixture was allowed to cool, diluted with water (1000 ml), and extracted with diethyl ether (2×50 ml). The organic solution was washed with water (100 ml), dried (MgSO4), concentrated in vacuo and the residue eluted on silica gel (500 g) with ethyl acetate: hexane (0 to 1:6). A solution of the product in diethyl ether (125 ml) was washed with 1N NaOH (15 ml) to remove some residual phenol, dried (K2CO3 and MgSO4), and concentrated in vacuo to give ethyl 3-(4-cyanophenyloxy)phenylacetate (20.8 g). 1H NMR (DMSO-d6, 300 MHz) δ: 1.18 (t, J=7 Hz, 3H, CH3), 3.71 (s, 2H, Ar CH2), 4.08 (q, J=7 Hz, 2H, ester CH2), 7.02-7.13 (m, 4H, Ar), 7.18 (d, J=8 Hz, 1H, Ar), 7.42 (t, J=8 Hz, 1H, Ar), 7.85 (d, J=9 Hz, 2H, Ar). Anal. Calculated for C17H15NO3 : C, 72.58; H, 5.37; N, 4.98. Found: C, 72.67; H, 5.43; N, 4.94.

reactant | ethyl 3-hydroxyphenylacetate | 0.15 mole, 28 g | OC=1C=C(C=CC1)CC(=O)OCC | C10H12O3
reactant | 4-fluorobenzonitrile | 0.21 mole, 25 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | potassium hydroxide | 0.15 mole, 10 g | [OH-].[K+]
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
solvent | water | 1000 ml | O | H2O
product | ethyl 3-(4-cyanophenyloxy)phenylacetate | 20.8 g | C(#N)C1=CC=C(C=C1)OC=1C=C(C=CC1)CC(=O)OCC | C17H15NO3
